US08067445B2
Step 2: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-methanesulfonylamino-6-methoxy-biphenyl-3-yl}-acetic acid
{2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-methanesulfonylamino-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester (0.2 mmol) was hydrolyzed with lithium hydroxide to give the title compound.

reactant | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-methanesulfonylamino-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | 0.2 mmol | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)NS(=O)(=O)C)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C29H34N2O7S
reactant | lithium hydroxide | [OH-].[Li+]
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-methanesulfonylamino-6-methoxy-biphenyl-3-yl}-acetic acid | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(C=CC(=C1)NS(=O)(=O)C)C1=CC(=CC=C1OC)CC(=O)O | C27H30N2O7S
